US07919496B2
5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3,3-DIMETHYLBUTYL)AMIDE
Following the procedure as described in Example 3, making variations only as required to use 3,3-dimethylbutylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.053 g, yield 93%). 1H NMR (300 MHz, CDCl3) δ 7.72-7.69 (m, 1H), 7.63-7.51 (m, 2H), 7.33-7.31 (m, 1H), 6.99 (br., t, 1H), 4.07-3.99 (m, 1H), 3.89-3.81 (m, 1H), 3.74-3.59 (m, 2H), 3.53-3.49 (m, 2H), 3.44-3.37 (m, 2H), 3.33-3.29 (m, 2H), 1.51-1.49 (m, 2H), 0.92 (s, 9H). 13C NMR (75 MHz, CDCl3) δ 174.4, 167.5, 158.1, 155.9, 133.9, 132.4, 129.6, 127.1, 126.9, 126.8, 126.7, 126.2, 125.3, 121.7, 49.5, 48.9, 45.9, 42.9, 40.7, 36.4, 29.9, 29.3. MS (ES+) m/z 470 (M+1).

reactant | 3,3-dimethylbutylamine | CC(CCN)(C)C | C6H15N
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (3,3-DIMETHYLBUTYL)AMIDE | CC(CCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)(C)C | C21H26F3N5O2S
